US05534518
Under a nitrogen atmosphere, a stirred solution of aqueous 90% nitric acid was cooled to -35° C., and 40.0 grams (0.264 mole) of 2-chloro-6-methylbenzonitrile was added in one portion. The reaction mixture was then allowed to warm to ambient temperature, where it was stirred for about 18 hours. After this time, the reaction mixture was poured into 3000 mL of ice-water. After the ice melted, the resultant solid was collected by filtration and dried. The NMR spectrum of the solid indicated that it was about 75% pure product. The solid was recrystallized twice from methanol, yielding 13.9 grams of 2-chloro-6-methyl-5-nitrobenzonitrile, mp 85.5°-87.5° C. The NMR spectrum was consistent with the proposed structure. The filtrates from the recrystallizations were combined and concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using 10% ethyl acetate in petroleum ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding an additional 20.4 grams of 2-chloro-6-methyl-5-nitrobenzonitrile, mp 87.5°-89.5° C. The NMR spectrum was consistent with the proposed structure.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-6-methylbenzonitrile | 0.264 mole, 40.0 grams | ClC1=C(C#N)C(=CC=C1)C | C8H6ClN
product | 2-chloro-6-methyl-5-nitrobenzonitrile | 13.9 grams | ClC1=C(C#N)C(=C(C=C1)[N+](=O)[O-])C | C8H5ClN2O2
